US07087750B2
4-((1S,4S)-2-Methyl-2,5-diazabicyclo[2.2.1]heptyl)-1-(2-methylbenzenesulfonyl)-1H-indole (Scheme 1)
The compound was prepared from 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole and (1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane according to Method 1 to give 25 mg (19%) of a white solid: 1H NMR (CD3OD) δ 7.91–6.44 (m, 9H), 4.67–4.63 (m, 1H), 4.35–4.33 (m, 1H), 4.09–4.07 (m, 1H), 3.99–3.95 (m, 1H), 3.72–3.70 (m, 1H), 3.21–3.17 (m, 1H), 2.95 (s, 3H), 2.33–2.31 (m, 2H); MS (ESI) 382.1 (M+H)+; Purity (HPLC) >95%.

reactant | 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C15H12BrNO2S
reactant | (1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane | CN1[C@@H]2CN[C@H](C1)C2 | C6H12N2
product | 4-((1S,4S)-2-Methyl-2,5-diazabicyclo[2.2.1]heptyl)-1-(2-methylbenzenesulfonyl)-1H-indole | 25 mg, 19% | CN1[C@]2(CN[C@H](C1)C2)C2=C1C=CN(C1=CC=C2)S(=O)(=O)C2=C(C=CC=C2)C | C21H23N3O2S
